data/mechanisms/records/IMS4-EQ4.43.json
{"mechanism_id": "IMS4-EQ4.43", "species": [{"species_id": "diethylamine_molecular_ion", "mapped_smiles": "[CH3:1][CH2:5][NH+:8][CH2:10][CH3:13]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethyl_immonium_ion", "mapped_smiles": "[CH3:1][CH2:5][NH+:8]=[CH2:10]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:13]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methyleneiminium_ion", "mapped_smiles": "[CH2:10]=[NH2+:8]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ethylene_neutral_loss", "mapped_smiles": "[CH2:1]=[CH2:5]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["diethylamine_molecular_ion"]}, {"state_id": "state_after_alpha", "species_ids": ["ethyl_immonium_ion", "methyl_radical"]}, {"state_id": "state_products", "species_ids": ["ethylene_neutral_loss", "methyleneiminium_ion", "methyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_after_alpha", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [8]}, "target": {"type": "bond", "atom_maps": [8, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [10, 13]}, "target": {"type": "bond", "atom_maps": [8, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [10, 13]}, "target": {"type": "atom", "atom_maps": [13]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_h_rearrangement", "from_state": "state_after_alpha", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [5, 8]}, "target": {"type": "bond", "atom_maps": [1, 5]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 80, "equation": "4.43", "figure": null, "panel": null, "section": "4 / Basic Mechanisms of Ion Fragmentation (EE+ H-rearrangement to an unsaturated heteroatom group)"}, "confidence": 0.85, "curator_note": "First (alpha) step of eq 4.43: the diethylamine molecular ion, drawn n-ionized at nitrogen (CH3CH2-N(+.)H-CH2CH3), undergoes alpha-cleavage of one ethyl Calpha-Cbeta bond to expel a methyl radical and form the N-ethyl methyleneimmonium ion CH3CH2-N(+)H=CH2 (m/z 58, the M-CH3 base peak of diethylamine). ARC COUNT: the book draws 3 arc(s) - a fully drawn 3-fishhook alpha-cleavage. move <1> = the nitrogen odd electron (the '+.' dot, map 8) into the forming N8=C10 pi bond; move <2> = one electron of the breaking C10-C13 (Calpha-Cbeta) sigma bond into that same N8=C10 pi bond (these two barbs land together on the N-CH2 bond, drawn as the 'vv' over N-CH2); move <3> = the other electron of the C10-C13 bond onto the departing methyl carbon (map 13), drawn as the rightmost hook terminating on CH3. LOCALIZATION (convention B): charge and odd electron are placed on N in the mapped SMILES ([NH+] with three sigma bonds = N(+.) radical cation), matching the '+.' the book draws over the nitrogen. The retained ethyl (maps 1,5) carries the hydrogen that migrates in the following step."}, {"evidence_id": "evidence_step_rh", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_h_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 80, "equation": "4.43", "figure": null, "panel": null, "section": "4 / Basic Mechanisms of Ion Fragmentation (EE+ H-rearrangement, 'rH')"}, "confidence": 0.8, "curator_note": "Second step of eq 4.43 (arrow labelled 'rH'): the even-electron N-ethyl immonium ion loses neutral ethylene by a four-centre beta-hydrogen rearrangement, giving CH2=NH2(+) (m/z 30). The book draws the immonium as a folded 4-membered transition state and shows 2 arc(s), both full (two-electron) arrows: arc(i) = the terminal Cbeta-H bonding pair migrating to the nitrogen (drawn 'H -> N(+)', forming the second N-H of the product iminium); arc(ii) = the N8-Calpha(map5) sigma bond electrons dropping into the forming Calpha=Cbeta (C1=C5) pi bond (drawn as the downward arc from the N-CH2 bond into the H2C-CH2 bond). ENCODING NOTE: only arc(ii) is transcribed as electron_move <1> (bond 5-8 -> bond 1-5); arc(i) terminates on the migrating hydrogen, which the validator's RDKit parse folds into implicit-H counts (atom-mapped H atoms are stripped in this build), so the C-H/N-H bond change is NOT separately encodable. The H migration is instead reflected in the heavy-atom implicit-H counts (C1 CH3 -> =CH2, N8 =NH -> =NH2+). No arc is omitted from the drawn figure's heavy-atom skeleton; the single encoded move exactly matches drawn arc(ii). PRINTED INTENSITY: none - this page prints no percentages or spectrum; the text states m/z 30 is 'the second largest peak in the spectrum of diethylamine' (a qualitative statement, not a printed %), so relative_intensity is omitted."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 73.0886, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_58", "species_id": "ethyl_immonium_ion", "step_id": "step_alpha_cleavage", "observed_mz": 58.0651, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}, {"peak_id": "peak_30", "species_id": "methyleneiminium_ion", "step_id": "step_h_rearrangement", "observed_mz": 30.0338, "relative_intensity": null, "hydrogen_shift": 1, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
